US06826033B2
A solution of (2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-(4-nitrophenyl)-1-propanol (2.00 g) in a mixed solvent of ethanol (7.5 ml) and 1,4-dioxane (7.5 ml) was added dropwise to a stirred suspension of iron powder (2.00 g) and ammonium chloride (0.24 g) in a mixed solvent of ethanol (5 ml) and water (5 ml) at 85° C. over 10 minutes and the resulting mixture was stirred at the same temperature for 30 minutes. The insoluble solid was filtered off and washed with dioxane, and the filtrate was concentrated in vacuo. The residue was partitioned between saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated to give (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]-amino]-1-propanol (1.90 g) as a pale yellow oil.

reactant | (2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-(4-nitrophenyl)-1-propanol | 2.00 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C32H34N2O6
reactant | ethanol | 7.5 ml | C(C)O | C2H6O
reactant | 1,4-dioxane | 7.5 ml | O1CCOCC1 | C4H8O2
reactant | ammonium chloride | 0.24 g | [Cl-].[NH4+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
catalyst | iron | 2.00 g | [Fe] | Fe
solvent | water | 5 ml | O | H2O
product | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]-amino]-1-propanol | 1.90 g | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C32H36N2O4
